Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Penicillins / Tetracyclines / Gadolinium-Containing Contrast 
Media
 
Attending: ___.
 
Chief Complaint:
Left-sided weakness, parasthesia
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
 Mr. ___ is a
___ male with anaplastic astrocytoma refractory to IMRT
and temozolomide, commenced investigational
eflornithine/lomustine in ___ of this year, but had progressive
disease shortly thereafter, referred for neurologic
deterioration, despite addition of bevacizumab. ___ was 
removed
from ___ ___ in ___ of this year for radiographic
progressive disease, namely enlargement in the lesion involving
the brainstem, which has manifested as left hemianesthesia,
discoordination, and disequilibrium. His gait is likewise
impaired, in this regard, and, in fact, had a mechanical fall
while ascending a flight of stairs. His neurologic symptoms were
corroborated on ___, so bevacizumab start was expedited
to ___. He had at least two more mechanical falls in the
interim. He did not sustain any injury in his family's opinion.
Today, he endorsed left hemiparesis that is worse in the 
evening.
He uses a quad-cane but now requires a one-assist. He has
decreased visual acuity with text. He is less coordinated and
struggling with basic activities of daily living. His speech is
slurred among other cognitive deficits but these are all
baseline. He will commence TCCC today.

REVIEW OF SYSTEMS: Constitutionally, ___ is more fatigued,
napping several times per day even after a nine to 10-hour rest.
He has not documented a fever at home and denies rigors, night
sweats, or recent illnesses. His appetite is voracious. He
sometimes has lightheadedness after rising from a seated or
supine position. He does not have headaches. Hemiparesis,
hemianesthesia, discoordination, disequilibrium, and gait
instability as above. He denies cardiopulmonary,
gastrointestinal, or lower urinary tract symptoms. His spirits
are "okay." "Whatever will happen, will happen." But, he is not
opposed to another line of treatment and rehabilitation. "[He]
will do what [he] has to do." 

 
Past Medical History:
ONCOLOGY HISTORY
-Diagnosed with right frontal and temporal IDH-1 wild-type
anaplastic astrocytoma via right frontal open biopsy in ___.
-IMRT followed by six cycles of temozolomide until ___.
-He progressed that month so proceeded with DFCI ___
eflornithine/lomustine on ___, but was later removed from
study on ___ due to progressive disease. 
-He received a dose of bevacizumab on ___. 
  
PAST MEDICAL HISTORY: 
-Anaplastic astrocytoma.
-Obstructive sleep apnea.
-Hypercholesterolemia.
-Asthma.
 
Social History:
___
Family History:
no history of cancer or seizures or auto-immune conditions that
he is aware of
 
Physical Exam:
ADMISSION EXAM
=========================
VITALS: T 97.3, HR 82, BP 123/78, RR 17, 96% RA
GENERAL: Cushingoid male in no apparent physical distress.
HEENT: Pupils are 3 mm and reactive. Anicteric. Oropharynx 
clear.
CV: Regular rate and rhythm.
PULM: Comfortable. Lungs are clear.
ABDOMEN: Soft. Non-tender.
EXTREMITIES: No peripheral edema.
SKIN: Within normal limits.
NEURO: Awake and alert. Attends to examiner. He is oriented.
There is some latency to his speech. He is farsighted. Cranial
nerves are otherwise intact. There is pronation of his left 
upper
extremity. His strength is 5- in the left upper and lower
extremities but otherwise full. His sensation is objectively 
full
throughout. He has bilateral dysmetria that is worse on the 
left.
Romberg and gait deferred.

DISCHARGE EXAM
===========================
GENERAL: NAD
HEENT: Pupils are 3 mm and reactive. Anicteric. Oropharynx 
clear.
CV: Regular rate and rhythm.
PULM: Comfortable. Lungs are clear.
ABDOMEN: Soft. Non-tender.
EXTREMITIES: No peripheral edema.
SKIN: Within normal limits. no rashes, lesions
NEURO: Awake and alert. Attends to examiner. He is oriented.
There is some latency to his speech. He is farsighted. Cranial
nerves are otherwise intact. There is pronation of his left 
upper
extremity. His strength is 5- in the left upper and lower
extremities but otherwise full. He has diminished L-sided
sensation to touch at distal extremities. He has bilateral
dysmetria that is worse on the left. 
 
Pertinent Results:
ADMISSION LABS
========================
___ 10:53AM BLOOD WBC-6.2 RBC-4.39* Hgb-14.7 Hct-41.1 
MCV-94 MCH-33.5* MCHC-35.8 RDW-15.6* RDWSD-52.6* Plt ___
___ 10:53AM BLOOD Neuts-72.7* Lymphs-14.1* Monos-10.8 
Eos-1.1 Baso-0.5 Im ___ AbsNeut-4.52 AbsLymp-0.88* 
AbsMono-0.67 AbsEos-0.07 AbsBaso-0.03
___ 10:53AM BLOOD UreaN-19 Creat-0.9 Na-138 K-3.8 Cl-101
___ 10:53AM BLOOD Glucose-94
___ 10:53AM BLOOD ALT-23 AST-15 LD(LDH)-225 AlkPhos-60 
TotBili-0.8
___ 10:53AM BLOOD TotProt-7.0 Albumin-4.5 Globuln-2.5 
Calcium-9.6 Phos-4.0 Mg-1.9 UricAcd-5.9

PERTINENT LABS
========================
NONE

DISCHARGE LABS
========================
___ 06:26AM BLOOD WBC-4.6 RBC-4.08* Hgb-13.8 Hct-39.1* 
MCV-96 MCH-33.8* MCHC-35.3 RDW-15.4 RDWSD-53.9* Plt ___
___ 06:26AM BLOOD Glucose-93 UreaN-15 Creat-1.0 Na-144 
K-4.2 Cl-103 HCO3-26 AnGap-15

STUDIES
========================
___ MRI BRAIN
IMPRESSION: 
1. There is mild continued progressive enlargement of the right 
midbrain, 
right pons, and right superior cerebellar peduncle lesion. 
2. There is a questionable progression in the extent of 
nonenhancing T2 FLAIR hyperintensity at the medial inferior left 
parietal lobe (series 8, image 17), but this may be exaggerated 
by exam technique and different angulation through this region.  
Close attention on follow-up. 
3. Interval stability of right frontotemporal T2 FLAIR 
hyperintense 
abnormality with mild decrease previously identified multifocal 
discrete 
intra-axial enhancement with residual enhancement at in genu of 
corpus 
callosum and posterior right gyrus rectus. 
4. Follow up with perfusion imaging may be useful in an effort 
to determine tumor activity versus response. 

MICROBIOLOGY
========================
NONE

 
Brief Hospital Course:
BRIEF HOSPITAL COURSE 
========================
Mr. ___ is a ___ man with anaplastic astrocytoma 
refractory to intensity-modulated radiation therapy and 
temozolomide, who commenced investigational 
eflornithine/lomustine in ___ of this year, but had progressive 
disease shortly thereafter, was referred for neurologic 
deterioration despite the addition of bevacizumab. 

ACTIVE ISSUES
========================
#Anaplastic astrocytoma
#hemiparesis
He had a constellation of rapidly evolving left-sided 
hemiparesis, left
hemianesthesia, discoordination, disequilibrium, and gait 
instability in the context of tumor enlargement at the level of 
the right midbrain, right pons, and right superior cerebellar 
peduncle. He commenced salvage therapy on ___ in the form of 
TCCC (J Neurooncol. ___ Apr;102(2):273-80). He was not a 
candidate for radiotherapy. A repeat MR brain on ___ showed 
mild progressive enlargement of tumor in R midbrain, pons, SCP. 
He was maintained on his home antiepileptics, dexamethasone, 
metformin, the latter of which was added for its theoretical 
anti-neoplastic properties. He was started on methylphenidate 
for fatigue. He worked with physical therapy and tolerated 
increased levels of gait and balance training. He experienced 
some dizziness with standing w/ some vertiginous aspects and was 
given scopolamine patch with good effect. He was discharged to 
___.

TRANSITIONAL ISSUES
========================
[] He needs weekly safety labs while on chemotherapy. (CBC, 
electrolytes, BUN/Cr, LFTs)
[] He will be returning for cycle 1 day 15 of bevacizumab on 
___. Please ensure he makes this appointment.
[] He was ordered for ankle foot orthosis but did not receive 
while inpatient. Please provide this if deemed appropriate.
[] Re-started on dexamethasone 4mg QAM.
[] Has oral chemotherapy regiman as below:

TCCC Day 1: ___
6-thioguanine 80 mg Q6H on Days 1 to 3
Capecitabine 1500 mg BID on Days 11 to 24 (___)
Celecoxib 400 mg BID on Days 11 to 24 ___
Lomustine 120 mg at bedtime on Day 4

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
further investigation.
1. Atorvastatin 10 mg PO QAM 
2. Capecitabine 1500 mg PO BID 
3. Celecoxib 400 mg oral BID 
4. Dexamethasone 4 mg PO QAM 
5. Dronabinol 10 mg PO DAILY:PRN Nausea 
6. Famotidine 20 mg PO DAILY 
7. LevETIRAcetam 1000 mg PO BID 
8. lomustine 120 mg oral ASDIR 
9. MetFORMIN (Glucophage) 500 mg PO BID 
10. Ondansetron 8 mg PO ONCE 
11. Prochlorperazine 10 mg PO DAILY:PRN Nausea/Vomiting 
12. Thioguanine 80 mg PO Q6H 
13. ValACYclovir 1000 mg PO DAILY 
14. LOPERamide 2 mg PO QID:PRN diarrhea 
15. Lactaid (lactase) 3,000 unit oral TID:PRN dairy consumption 

 
Discharge Medications:
1.  MethylPHENIDATE (Ritalin) 5 mg PO BID 
RX *methylphenidate HCl 5 mg 1 tablet(s) by mouth twice per day 
Disp #*6 Tablet Refills:*0 
2.  Scopolamine Patch 1 PTCH TD ONCE Duration: 72 Hours  
3.  Atorvastatin 10 mg PO QAM  
4.  Capecitabine 1500 mg PO BID Duration: 14 Days 
Please give on days ___ of regimen (___)  
5.  Celecoxib 400 mg oral BID Duration: 14 Days 
Please give on days ___  
6.  Dexamethasone 4 mg PO QAM  
7.  Dronabinol 10 mg PO DAILY:PRN Nausea  
8.  Famotidine 20 mg PO DAILY  
9.  Lactaid (lactase) 3,000 unit oral TID:PRN dairy consumption  

10.  LevETIRAcetam 1000 mg PO BID  
11.  lomustine 120 mg oral ASDIR 
As directed by outpatient oncologist  
12.  LOPERamide 2 mg PO QID:PRN diarrhea  
13.  MetFORMIN (Glucophage) 500 mg PO BID  
14.  Ondansetron 8 mg PO ONCE  
15.  Prochlorperazine 10 mg PO DAILY:PRN Nausea/Vomiting  
16.  Thioguanine 80 mg PO Q6H 
Do not give unless instructed by outpatient oncologist.  
17.  ValACYclovir 1000 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=========================
Anaplastic Astrocytoma

SECONDARY DIAGNOSIS
=========================
OSA
Asthma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you here at ___ 
___!

WHY WAS I IN THE HOSPITAL?
==================================
- You came to the hospital because you were having worsening 
symptoms on the left side of your body.

WHAT HAPPENED IN THE HOSPITAL?
==================================
- You had a MRI of the brain.
- You were started on a new chemotherapy regimen.
- You worked with physical and occupational therapy to assess 
your needs for rehab.

WHAT SHOULD I DO WHEN I LEAVE?
==================================
- You will be going to a facility that will work with you to 
regain some of the strength you have lost. Please work with them 
to the best of your ability.
- You will need to return to receive bevacizumab on ___.

We wish you the very best!

Your ___ care team
 
Followup Instructions:
___